US09302985B2
To a solution of (4-bromo-phenyl)-methanesulfonyl chloride (1.4 g, 5.2 mmol) in DCM (20 mL) at room temperature was added pyridine (1.26 mL, 15.6 mmol) followed by 3-chloroaniline (1.1 mL, 10.4 mmol) and the reaction was stirred at room temperature for 3 hours. 1 M aqueous HCl was added and then extracted with DCM, filtered through a separator, concentrated, dry loaded onto silica and purified by silica gel column chromatography (0-100% DCM in cyclohexane) to give C-(4-bromo-phenyl)-N-(3-chloro-phenyl)-methanesulfonamide (0.61 g, 1.68 mmol). 1H NMR (300 MHz, CDCl3): δ 7.49 (d, 2 H), 7.26 (m, 1 H), 7.13-7.15 (m, 4 H), 6.96-6.98 (m, 1 H), 6.31 (s, 1 H), 4.31 (s, 2 H).

reactant | (4-bromo-phenyl)-methanesulfonyl chloride | 5.2 mmol, 1.4 g | BrC1=CC=C(C=C1)CS(=O)(=O)Cl | C7H6BrClO2S
reactant | pyridine | 15.6 mmol, 1.26 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-chloroaniline | 10.4 mmol, 1.1 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | HCl | 1 M | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | C-(4-bromo-phenyl)-N-(3-chloro-phenyl)-methanesulfonamide | 1.68 mmol, 0.61 g | BrC1=CC=C(C=C1)CS(=O)(=O)NC1=CC(=CC=C1)Cl | C13H11BrClNO2S
